US06777421B2
To a mixture of the crude methyl 3-(2-bromophenyl)propionate (1.59 g, ca 0.006 mol) and tetrakis(triphenylphosphine) palladium (0) (695 mg, 0.601 mmol) in 1,2-dimethoxyethane (45 mL) were added thiophene-2-boronic acid (2.304 g, 0.018 mol) and 1N aqueous NaHCO3 (15 mL). The resulting mixture was heated at reflux under nitrogen atmosphere for 66 hrs. The dark reaction mixture was then diluted with water (100 mL) and extracted with EtOAc (2×100 mL). The combined organic layers were dried over Na2SO4, filtered and then concentrated. The resulting crude product was purified by flash chromatography (5% EtOAc in hexane) to yield methyl 2-(2-thienyl)phenylpropionate as a light green oil.

reactant | methyl 3-(2-bromophenyl)propionate | ca 0.006 mol, 1.59 g | BrC1=C(C=CC=C1)CCC(=O)OC | C10H11BrO2
reactant | thiophene-2-boronic acid | 0.018 mol, 2.304 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | NaHCO3 | 1N, 15 mL | C(=O)(O)[O-].[Na+]
reactant | 1,2-dimethoxyethane | 45 mL | COCCOC | C4H10O2
solvent | water | 100 mL | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.601 mmol, 695 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | methyl 2-(2-thienyl)phenylpropionate | S1C(=CC=C1)C1=C(C=CC=C1)C(C(=O)OC)C | C14H14O2S
